US07253286B2
N-(4-Fluorophenyl)-N′-(4-{[2-(2-oxotetrahydro-1H-1-pyrrolyl)-4-pyridyl]oxy}phenyl)urea
N-(4-Fluorophenyl)-N′-(4-{[2-(4-chlorobutyrylamino)-4-pyridyl]oxy}phenyl)urea (56 mg), potassium carbonate (46 mg) and dimethylformamide (2 ml) were stirred at 150° C. for 15 minutes. Water and ethyl acetate were added for extraction, and the extract was passed through a glass filter coated with silica gel. The silica gel was washed with ethyl acetate, and the organic layer was distilled off under reduced pressure. Ethyl acetate and hexane were added to the residue, and the precipitated solid was filtered out to obtain 21 mg of a faint brown powder.

reactant | N-(4-Fluorophenyl)-N′-(4-{[2-(4-chlorobutyrylamino)-4-pyridyl]oxy}phenyl)urea | 56 mg | FC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC(=NC=C1)NC(CCCCl)=O | C22H20ClFN4O3
reactant | potassium carbonate | 46 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | Water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-Fluorophenyl)-N′-(4-{[2-(2-oxotetrahydro-1H-1-pyrrolyl)-4-pyridyl]oxy}phenyl)urea | 21 mg | FC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC(=NC=C1)N1C(CCC1)=O | C22H19FN4O3
